US08957064B2
Step 3: 2-piperidin-4-yl-1H-benzoimidazole-5-carbonitrile hydrochloride salt
To a solution of 4-(5-cyano-1H-benzoimidazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester (3.2 g, 10 mmol) in dioxane (13 mL) was added a solution of HCl in dioxane (25%, 14.3 mL). The resulting precipitate was filtered to give the title compound.

reactant | 4-(5-cyano-1H-benzoimidazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 10 mmol, 3.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC2=C(N1)C=CC(=C2)C#N | C18H22N4O2
reactant | HCl | Cl | ClH
solvent | dioxane | 13 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 14.3 mL | O1CCOCC1 | C4H8O2
product | 2-piperidin-4-yl-1H-benzoimidazole-5-carbonitrile hydrochloride salt | Cl.N1CCC(CC1)C1=NC2=C(N1)C=CC(=C2)C#N | InChI=1S/C13H14N4.ClH/c14-8-9-1-2-11-12(7-9)17-13(16-11)10-3-5-15-6-4-10;/h1-2,7,10,15H,3-6H2,(H,16,17);1H
